US06541602B1
Preparation of 1,2-bis(4-bromophenyl)-3,4,5,6-tetraphenyl-benzene (1) 3,4-Bis(4-bromophenyl)-2,5-diphenylcyclopentadienone:
46 g (112 mmol) of 4,4′-dibromobenzil and 23.7 g (112 mmol) of 1,3-diphenylacetone were heated to the boiling point in 300 ml of toluene. Addition of 250 ml of triethylene glycol finally gave a clear solution at 120° C. 11.3 ml of ethanolic benzyltrimethylammonium hydroxide solution (40%) were added, and the heating was removed. The highly exothermic reaction proceeded very quickly. The reaction batch became black. After 10 minutes, the reaction was terminated. The toluene was removed in a rotary evaporator, and the solid which remained was filtered off with suction at room temperature and washed a number of times with MeOH. Drying under reduced pressure gave 57 g of brown-violet crystals (94%). Melting point: 245° C.

reactant | 4,4′-dibromobenzil | 112 mmol, 46 g | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
reactant | 1,3-diphenylacetone | 112 mmol, 23.7 g | C1(=CC=CC=C1)CC(=O)CC1=CC=CC=C1 | C15H14O
reactant | triethylene glycol | 250 ml | C(COCCOCCO)O | C6H14O4
reactant | benzyltrimethylammonium hydroxide | 11.3 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-bis(4-bromophenyl)-3,4,5,6-tetraphenyl-benzene | 57 g, 94% | BrC1=CC=C(C=C1)C1=C(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Br | C42H28Br2
